US04186129
7.2 mmol of 5-(3-hydroxy-4-methoxyphenyl)-2-oxazolidinone is dissolved in 10 ml. of absolute dimethylformamide and stirred with 7.9 mmol of sodium hydride for 1 hour at 50°. After cooling, the mixture is combined with 8.6 mmol of cyclopentyl bromide and then agitated for 2 hours at 80°. After the reaction is terminated, the dimethylformamide is withdrawn under vacuum at 40°. The residue is taken up in 100 ml. of 2 N sodium hydroxide solution and extracted three times with 150 ml. of chloroform. The combined chloroform phases are washed with water, dried, filtered, and concentrated. The residue is recrystallized from ethyl acetate/ether, thus obtaining in a 70% yield 5-(3-cyclopentoxy-4-methoxyphenyl)-2-oxazolidinone, m.p. 111°-112°.

reactant | 5-(3-hydroxy-4-methoxyphenyl)-2-oxazolidinone | 7.2 mmol | OC=1C=C(C=CC1OC)C1CNC(O1)=O | C10H11NO4
reactant | sodium hydride | 7.9 mmol | [H-].[Na+]
reactant | cyclopentyl bromide | 8.6 mmol | C1(CCCC1)Br | C5H9Br
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(3-cyclopentoxy-4-methoxyphenyl)-2-oxazolidinone | 70% yield | C1(CCCC1)OC=1C=C(C=CC1OC)C1CNC(O1)=O | C15H19NO4
